US05852017
d) Preparation of 1-cyclohexyl-6-trifluoromethyl-7-nitro-2,3(1H,4H)-quinoxalinedione
A solution of 20 g (64 mmol) of 1-cyclohexyl-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione in 400 ml of concentrated sulfuric acid was cooled to 0° C., 5.4 g (64 mmol) of sodium nitrate were added a little at a time over the course of one hour, and the mixture was stirred at room temperature for 3 hours. It was then poured into ice-water, and the crude product was filtered off with suction and recrystallized from methanol.

reactant | 1-cyclohexyl-6-trifluoromethyl-2,3(1H,4H)-quinoxalinedione | 64 mmol, 20 g | C1(CCCCC1)N1C(C(NC2=CC(=CC=C12)C(F)(F)F)=O)=O | C15H15F3N2O2
reactant | sodium nitrate | 64 mmol, 5.4 g | [N+](=O)([O-])[O-].[Na+]
solvent | sulfuric acid | 400 ml | S(O)(O)(=O)=O | H2O4S
product | 1-cyclohexyl-6-trifluoromethyl-7-nitro-2,3(1H,4H)-quinoxalinedione | C1(CCCCC1)N1C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])C(F)(F)F)=O)=O | C15H14F3N3O4
